US09238647B2
Step B: ethyl 4-bromo-1H-1,2,3-benzotriazole-6-carboxylate
A solution of ethyl 1H-1,2,3-benzotriazole-6-carboxylate (5.0 g, 26.2 mmol) in dichloromethane (25.2 mL) was purged with nitrogen and a solution of bromine (1.35 mL, 26.2 mmol) in acetic acid (5.17 mL) was added dropwise. The mixture was stirred at ambient temperature. After 18 h, additional bromine (0.67 mL, 13.1 mmol) was added and the mixture was stirred at ambient temperature. After 18 h, saturated aqueous sodium thiosulfate was added and the mixture was extracted with ethyl acetate. The combined organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated. The crude product was purified by reverse phase HPLC (C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.025% trifluoroacetic acid) gave the title compound (0.73 g): LC-MS [M]=270.0.

reactant | ethyl 1H-1,2,3-benzotriazole-6-carboxylate | 26.2 mmol, 5.0 g | N1N=NC2=C1C=C(C=C2)C(=O)OCC | C9H9N3O2
reactant | bromine | 26.2 mmol, 1.35 mL | BrBr | Br2
reactant | bromine | 13.1 mmol, 0.67 mL | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 25.2 mL | ClCCl | CH2Cl2
solvent | acetic acid | 5.17 mL | C(C)(=O)O | C2H4O2
product | ethyl 4-bromo-1H-1,2,3-benzotriazole-6-carboxylate | 0.73 g | BrC1=CC(=CC=2NN=NC21)C(=O)OCC | C9H8BrN3O2
